US08222263B2
To a solution of 2-chloro-4-phenylquinazoline (9.6 g, 40 mmol) in 2-propanol (130 mL) was added 4-aminobenzoic acid (8.2 g, 60 mmol) and the mixture was stirred at reflux for 4 h. The mixture was cooled to rt and the precipitate was collected by filtration and washed with 2-propanol. The product, 4-(4-phenylquinazolin-2-ylamino)benzoic acid, was isolated as a yellow solid (12.9 g, 95%).

reactant | 2-chloro-4-phenylquinazoline | 40 mmol, 9.6 g | ClC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1 | C14H9ClN2
reactant | 4-aminobenzoic acid | 60 mmol, 8.2 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
solvent | 2-propanol | 130 mL | CC(C)O | C3H8O
product | 4-(4-phenylquinazolin-2-ylamino)benzoic acid | C1(=CC=CC=C1)C1=NC(=NC2=CC=CC=C12)NC1=CC=C(C(=O)O)C=C1 | C21H15N3O2
